US06528543B1
A mixture of 2-(4-chloro-3-nitro-phenyl)-3-cyclopentyl-propionic acid (450 mg, 1.51 mmol) in methylene chloride (4 mL) was treated with N,N-dimethylformamide (1 drop) and then cooled to 0° C. The reaction mixture was then slowly treated with oxalyl chloride (145 μL, 1.66 mmol). The reaction mixture was stirred at 0° C. for 10 min and then stirred at 25° C. for 1 h. The resulting reaction mixture was then treated dropwise with 1,1,1,3,3,3-hexamethyldisilazane (960 μL, 4.53 mmol) and subsequently stirred at 25° C. for 15 h. The resulting reaction mixture was diluted with methylene chloride (10 L) and methanol (10 mL). The organic layer was washed with a 5% aqueous sulfuric acid solution and a saturated aqueous sodium chloride solution. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to afford 2-(4-chloro-3-nitro-phenyl)-3-cyclopentyl-propionamide (295 mg, 67%) as a yellow oil which solidified upon sitting to a yellow solid. The yellow solid was used without further purification: mp 112-114° C.; EI-HRMS m/e calcd for C14H17ClN2O3 (M+) 296.0927, found 296.0931.

reactant | 2-(4-chloro-3-nitro-phenyl)-3-cyclopentyl-propionic acid | 1.51 mmol, 450 mg | ClC1=C(C=C(C=C1)C(C(=O)O)CC1CCCC1)[N+](=O)[O-] | C14H16ClNO4
reactant | oxalyl chloride | 1.66 mmol, 145 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 4.53 mmol, 960 μL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | methylene chloride | 10 L | C(Cl)Cl | CH2Cl2
solvent | methanol | 10 mL | CO | CH4O
product | 2-(4-chloro-3-nitro-phenyl)-3-cyclopentyl-propionamide | 295 mg, 67% | ClC1=C(C=C(C=C1)C(C(=O)N)CC1CCCC1)[N+](=O)[O-] | C14H17ClN2O3
